Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Lumbar disc herniation
 
Major Surgical or Invasive Procedure:
LEFT L5-S1 MICRODISCECTOMY

 
History of Present Illness:
A very pleasant ___ female who is having less back pain
now.  Her main complaint right now is pain over the left hip
area, radiating to what seems to be L5 distribution on the left. 

That is miserable and unbearable sometimes.  She also has SI
joint pain on the left.  Range of motion of the hip is eliciting
mild pain.  In the past, she had SI joint injections that did 
not
help very much from what she states.  The flexion/extension
x-rays she had done in her prior visit with us were reviewed and
it showed movement between L5-S1, which is borderline normal at 
2
mm.  I had a long discussion with her.  I reexamined her and she
does not have any weakness except positive SLR for L5
radiculopathy.  She says that the pain at the L5 when it comes 
is
really disabling on the left.  I reviewed the new MRI of her
lumbar spine, and it shows worsening far lateral left L5-S1 disc
herniation, which is clearly affecting the L5 nerve root.  That
is responsible for her radiculopathy at L5.  I discussed with 
her
possible fusion L4 to S1 through laminectomies and
decompressions.  However, her back pain is minimal now.  I think
it is reasonable to try a far lateral left L5-S1 microdiscectomy
since she is having almost minimal back pain.  Risks and 
benefits
were discussed and she knows that we may need to have a fusion 
in
the future.

 
Past Medical History:
HTN
Asthma
Laparoscopy ___, left foot heel spur repair
in ___.

 
Social History:
___
Family History:
Significant for maternal grandmother with
osteoporosis.  Her father had lung cancer and uncle prostate
cancer and aunt diabetes.
 
Physical Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
Right5          5     5          5     5
Left5          5     5          5     5

IPQuadHamATEHLGast
Right5         5      5       5       5        5
Left5         5      5       5       5        5

[-]Clonus ___ [x]Sensation intact to light touch
[x]Proprioception intact

Wound: 
          [x]Clean, dry, intact 
          [x]Steris 

 
Pertinent Results:
Please see OMR for all lab and imaging results.
 
Brief Hospital Course:
Patient presented to the pre-op area, was evaluated by 
anesthesia and taken to the OR for elective L5-S1 
microdiscectomy. Patient tolerated the procedure well. Please 
refer to formal op report in OMR for further 
surgical/intra-operative details. Patient was extubated in the 
OR following some difficulty waking, and taken to the PACU in 
stable condition. She was subsequently admitted to the 
neurosurgery service. On POD 1 she was determined to be 
ambulating well, pain controlled with medication, and ready for 
discharge in good condition.
 
Medications on Admission:
cyclobenzaprine 5 mg, gabapentin 800 mg, hydrochlorothiazide 25 
mg
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN for fever or pain  
2.  Diazepam 2 mg PO Q8H:PRN muscle spasm 
RX *diazepam 2 mg 1 tablet by mouth q8 hours Disp #*20 Tablet 
Refills:*0 
3.  Docusate Sodium 100 mg PO BID  
4.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN pain 
Decrease in dosage and frequency as pain decreases. 
RX *oxycodone 5 mg ___ tablet(s) by mouth q6 hours Disp #*60 
Tablet Refills:*0 
5.  Senna 17.2 mg PO QHS  
6.  Albuterol Inhaler ___ PUFF IH Q4H:PRN asthma  
7.  Cyclobenzaprine 5 mg PO QHS  
8.  Gabapentin 800 mg PO TID  
9.  Hydrochlorothiazide 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Disc herniation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Surgery
•Your dressing may come off on the second day after surgery. 
•Your incision is closed with dissolvable sutures underneath 
the skin and steri strips. You do not need suture removal. Do 
not remove your steri strips, let them fall off. Please keep 
your incision dry for 72 hours after surgery.
•Do not apply any lotions or creams to the site. 
•Please avoid swimming for two weeks after suture/staple 
removal.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs. 

 
Followup Instructions:
___